US06335360B1
1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-5-trifluoromethoxyindoline-2(R/S)-carboxylic acid (2,2,2-trifluoroethyl)amide
1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-5-trifluoromethoxy-indoline-2(S)-carboxylic acid (0.432 g, 1 mmol) and 2,2,2-trifluoroethylamine hydrochloride (0.271 g, 2 mmol) were dissolved in dried dichloromethane (20 ml) under nitrogen at 0° C., and triethylamine (0.7 ml, 5 mmol) was added followed by bis(2-oxo-3-oxazolidinyl)phosphinic chloride (0.509 g, 2 mmol). The temperature was allowed to rise to room temperature and the mixture was stirred at room temperature for 24 hours, then filtered. The filtrate was concentrated under vacuum to give a brown solid which was columned on silica gel using 8:2 dichloromethane: diethyl ether as eluent to provide an off-white solid as the desired product.

reactant | 1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-5-trifluoromethoxy-indoline-2(S)-carboxylic acid | 1 mmol, 0.432 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](CC2=CC(=CC=C12)OC(F)(F)F)C(=O)O)CC | C19H23F3N2O6
reactant | 2,2,2-trifluoroethylamine hydrochloride | 2 mmol, 0.271 g | Cl.FC(CN)(F)F
reactant | triethylamine | 5 mmol, 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 2 mmol, 0.509 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-5-trifluoromethoxyindoline-2(R/S)-carboxylic acid (2,2,2-trifluoroethyl)amide | FC(CNC(=O)C1N(C2=CC=C(C=C2C1)OC(F)(F)F)C([C@H](CC)NC(=O)OC(C)(C)C)=O)(F)F | C21H25F6N3O5
